US06043366
8-Cyclodecyl-3-(2-morpholin-4-yl-ethyl)-1-phenyl-1,3,8-triaza-spiro[4,5]decan-4-one hydrochloride (1:2)
The title compound, white solid, m. p. 190° C. and MS: m/e=483.6 (M+H+) was prepared in accordance with the general method of example 24 from 8-cyclodecyl-1-phenyl-1,3,8-triaza-spiro[4,5]decan-4-one hydrochloride and N-(2-chloroethyl)-morpholine.

reactant | 8-cyclodecyl-1-phenyl-1,3,8-triaza-spiro[4,5]decan-4-one hydrochloride | Cl.C1(CCCCCCCCC1)N1CCC2(C(NCN2C2=CC=CC=C2)=O)CC1
reactant | N-(2-chloroethyl)-morpholine | ClCCN1CCOCC1 | C6H12ClNO
product | 8-Cyclodecyl-3-(2-morpholin-4-yl-ethyl)-1-phenyl-1,3,8-triaza-spiro[4,5]decan-4-one hydrochloride | Cl.C1(CCCCCCCCC1)N1CCC2(C(N(CN2C2=CC=CC=C2)CCN2CCOCC2)=O)CC1 | InChI=1S/C29H46N4O2.ClH/c34-28-29(15-17-31(18-16-29)26-11-7-4-2-1-3-5-8-12-26)33(27-13-9-6-10-14-27)25-32(28)20-19-30-21-23-35-24-22-30;/h6,9-10,13-14,26H,1-5,7-8,11-12,15-25H2;1H
